US08633239B2
(R)-benzyl2-(5-(2-(phenylsulfonyl)ethyl)-1H-indole-3-carbonyl)pyrrolidine-1-carboxylate (Formula Iv)
In a separate setup ethyl magnesium bromide (7.0 ml of a 3M solution in ether) was charged slowly to a solution of 5-(2-(phenylsulfonyl)ethyl)-1H-indole (1.0 g, 3.4 mmol) in dichloromethane. The reaction mixture was heated at reflux for 30 min. The reaction was cooled to −20° C. and ZnCl2 followed by the above prepared CBZ-prolinyl acid chloride in dichloromethane was charged slowly to the reaction at −20° C. The resulting solution was stirred at −15 to −25° C. for 10 h. The completion of the reaction was monitored by TLC. The reaction mass was warmed to RT and diluted with 20 ml dichloromethane. The organic layer was sequentially washed sat. ammonium chloride solution, sat. sodium bicarbonate solution and brine. The organic layer was dried over sodium sulphate and concentrated under vacuum to give a pure product in about 40-75% yield. 1H NMR CDCl3 δ=9.85 (bs, NH), 7.92-7.99 (m, 2H), 7.54-7.80 (m, 5H), 7.28-7.43 (m, 4H), 6.78-7.08 (m, 3H), 4.89-5.28 (m, 3H), 3.53-3.80 (m, 2H), 3.25-3.48 (m, 2H), 2.91-3.19 (m, 2H), 1.70-2.35 (m, 4H). ESI Mass (M−H) 515.6, (M+23) 539.2

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 5-(2-(phenylsulfonyl)ethyl)-1H-indole | 3.4 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)CCC=1C=C2C=CNC2=CC1 | C16H15NO2S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | brine | [Cl-].[Na+].O
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | (R)-benzyl2-(5-(2-(phenylsulfonyl)ethyl)-1H-indole-3-carbonyl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | C29H28N2O5S
